US05726194
A solution of 1 g of 3-nitro-N-(2,1,3-benzothiadiazol-5-yl)-1-benzenesulfonamide in 25 ml of methanol is hydrogenated to completion on 1 g of Raney Nickel at normal pressure and 20°. The solution is filtered, evaporated and 3-amino-N-(2,1,3-benzothiadiazol-5-yl)-1-benzenesulfonamide is obtained.

reactant | 3-nitro-N-(2,1,3-benzothiadiazol-5-yl)-1-benzenesulfonamide | 1 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NC1=CC=2C(=NSN2)C=C1 | C12H8N4O4S2
solvent | methanol | 25 ml | CO | CH4O
catalyst | Raney Nickel | 1 g | [Ni] | Ni
product | 3-amino-N-(2,1,3-benzothiadiazol-5-yl)-1-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NC1=CC=2C(=NSN2)C=C1 | C12H10N4O2S2
